US04599334
23.2 g of cyclopropylamine are added dropwise, with stirring and cooling in ice, to a solution of 123.9 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxyacrylate in 250 ml of ethanol. When the exothermic reaction has subsided, the mixture is stirred for a further 1 hour at room temperature, the solvent is removed in vacuo, and the residue is recrystallized from cyclohexane/petroleum ether. 115 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate of melting point 63°-65° C. are obtained.

reactant | cyclopropylamine | 23.2 g | C1(CC1)N | C3H7N
reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxyacrylate | 123.9 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1F)F)F | C14H12F4O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate | 115 g | FC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1F)F)F | C15H13F4NO3
